US05021587
Generally following the procedures of the preceding examples, ethyl 2-methyl-2-chloro-3-phenyl-3-butenoate (R=phenyl, R1 =methyl) was reacted with benzylamine to yield N-benzyl-3-methyl-4-phenyl-3-azoline-2-one (R=phenyl, R1 =methyl).

reactant | ethyl 2-methyl-2-chloro-3-phenyl-3-butenoate | CC(C(=O)OCC)(C(=C)C1=CC=CC=C1)Cl | C13H15ClO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-3-methyl-4-phenyl-3-azoline-2-one | C(C1=CC=CC=C1)N1C(C(=C(C1)C1=CC=CC=C1)C)=O | C18H17NO
